US09428499B2
Step-b: Synthesis of 2-(3-aminophenyl)-1-(3-hydroxyazetidin-1-yl)ethanone
1-(3-hydroxyazetidin-1-yl)-2-(3-nitrophenyl)ethanone (0.5 g, 2.117 mmol) was taken in methanol (20 ml) and at 0° C., Pd—C (10%, 0.5 g) was added. The reaction mixture was stirred under hydrogen atmosphere at room temperature for 5 hrs. The reaction mixture was filtered through celite and the filtrate was concentrated under vacuum to afford the title product (0.42 gm).

reactant | 1-(3-hydroxyazetidin-1-yl)-2-(3-nitrophenyl)ethanone | 2.117 mmol, 0.5 g | OC1CN(C1)C(CC1=CC(=CC=C1)[N+](=O)[O-])=O | C11H12N2O4
solvent | methanol | 20 ml | CO | CH4O
catalyst | Pd—C | 0.5 g | [Pd] | Pd
product | 2-(3-aminophenyl)-1-(3-hydroxyazetidin-1-yl)ethanone | 0.42 gm | NC=1C=C(C=CC1)CC(=O)N1CC(C1)O | C11H14N2O2
